US09162987B2
4-Iodo-6-(3-fluorophenyl)pyrimidine (ACT-MIF-008)
The compound was prepared according to Example 1 using 3-fluorophenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 3-fluorophenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(3-fluorophenyl)pyrimidine | IC1=NC=NC(=C1)C1=CC(=CC=C1)F | C10H6FIN2
